data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
175,192,[CH3:12][CH:13]=[O+:14][C-:15]([CH3:16])[C:17]#[N:18].[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][O:2][C:3]12[C:4]([C:5]#[N:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[CH:13]([CH3:12])[O:14][C:15]2([CH3:16])[C:17]#[N:18],water,298.15,4.9784929923423,-48.75661635394941
1965,2178,[CH3:13][NH:14][C:15](=[O:16])[C:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)=[N+:24]([CH3:25])[CH-:26][C:27]([CH3:28])=[O:29].[CH3:1][NH:2][C:3](=[O:4])[C:5]([O:6][CH3:7])=[C:8]([O:9][CH3:10])[O:11][CH3:12]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([O:6][CH3:7])[C:8]([O:9][CH3:10])([O:11][CH3:12])[CH:26]([C:27]([CH3:28])=[O:29])[N:24]([CH3:25])[C:17]1([C:15]([NH:14][CH3:13])=[O:16])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,24.51262172317836,-14.725203786785944
3958,4531,[CH3:9][O:10][C:11](=[O:12])[c-:13]1[o+:14][c:15]([C:16]([CH3:17])=[O:18])[o:19][c:20]1=[O:21].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:13]2([C:11]([O:10][CH3:9])=[O:12])[O:14][C:15]1([C:16]([CH3:17])=[O:18])[O:19][C:20]2=[O:21],water,298.15,17.688615145468322,-24.27808292022648
217,237,[CH3:9][NH:10][C:11](=[O:12])[C:13]([CH3:14])=[NH+:15][C-:16]([CH3:17])[CH3:18].[F:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[F:1][C:2]12[CH:3]([CH:4]3[CH:5]=[CH:6][CH:7]1[O:8]3)[C:13]([C:11]([NH:10][CH3:9])=[O:12])([CH3:14])[NH:15][C:16]2([CH3:17])[CH3:18],water,298.15,15.475714754844931,-53.94313634260747
238,261,[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][Br:7].[CH3:8][O:9][C:10](=[O:11])[C-:12]([CH3:13])[N+:14]#[N:15]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[N:15]=[N:14][C:12]1([C:10]([O:9][CH3:8])=[O:11])[CH3:13],water,298.15,25.298538571358577,-31.49122604793445
3607,4118,[CH3:9][NH:10][C:11](=[O:12])[c:13]1[nH+:14][c-:15]([CH3:16])[c:17](=[O:18])[o:19]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[C:15]2([CH3:16])[NH:14][C:13]1([C:11]([NH:10][CH3:9])=[O:12])[O:19][C:17]2=[O:18],water,298.15,21.02829141260181,-9.81544551430014
3099,3489,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][CH-:10][NH+:11]=[C:12]([C:13]#[N:14])[C:15]#[N:16]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[CH:10]([CH3:9])[NH:11][C:12]2([C:13]#[N:14])[C:15]#[N:16],water,298.15,15.609713109248087,-8.548699904244668
4283,4899,[CH3:10][C:11](=[O:12])[CH:13]=[O+:14][C-:15]([C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:15]([C:16]#[N:17])([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[O:14][CH:13]1[C:11]([CH3:10])=[O:12],water,298.15,5.459755860124358,-35.946585423697535
3789,4339,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][O:6][C:7](=[O:8])[C:9](=[O+:10][N-:11][c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[C:18]([CH3:19])=[O:20]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[N:11]([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[O:10][C:9]1([C:7]([O:6][CH3:5])=[O:8])[C:18]([CH3:19])=[O:20],water,298.15,15.597455373788268,-49.432397930640825
1546,1707,[CH3:13][O:14][C:15](=[O:16])[C:17]([C:18](=[O:19])[O:20][CH3:21])=[N+:22]([CH3:23])[CH-:24][C:25]#[N:26].[CH3:1]/[C:2](=[C:3](/[CH3:4])[C:5]([F:6])([F:7])[F:8])[C:9]([F:10])([F:11])[F:12]>>[CH3:1][C@@:2]1([C:9]([F:10])([F:11])[F:12])[C@@:3]([CH3:4])([C:5]([F:6])([F:7])[F:8])[CH:24]([C:25]#[N:26])[N:22]([CH3:23])[C:17]1([C:15]([O:14][CH3:13])=[O:16])[C:18](=[O:19])[O:20][CH3:21],water,298.15,27.02543983176139,-5.50263733036782
5105,5795,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][N+:12](=[C:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[C-:26]([C:27]#[N:28])[C:29]#[N:30]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[N:12]([CH3:11])[C:26]2([C:27]#[N:28])[C:29]#[N:30],water,298.15,40.197455245881045,11.715643143376914
3534,4032,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[C-:7]([c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)[N+:14]([CH3:15])=[C:16]([CH3:17])[C:18]#[N:19]>>[CH2:1]1[CH2:2][C:7]([C:5]([NH:4][CH3:3])=[O:6])([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[N:14]([CH3:15])[C:16]1([CH3:17])[C:18]#[N:19],water,298.15,17.76219076371888,-37.19005206145581
5113,5805,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([O+:16]=[C:17]([C:18]([CH3:19])=[O:20])[C:21]([CH3:22])=[O:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[O:16][C:17]2([C:18]([CH3:19])=[O:20])[C:21]([CH3:22])=[O:23],water,298.15,18.990721065997995,-32.12435309261003
